### PR TITLE
[Merged by Bors] - feat: asymptotics of the `logCounting` function of Value Distribution Theory

### PR DESCRIPTION
**Pull request by kebekus**
If `f` is meromorphic over a field `𝕜`, show that the logarithmic counting function for the poles of `f` is asymptotically bounded if and only if `f` has only removable singularities.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 1]
```diff
@@ -0,0 +1,149 @@
...
+  rw [isLittleO_iff]
+  intro c hc
+  simp only [Pi.one_apply, one_mem, CStarRing.norm_of_mem_unitary, norm_eq_abs, eventually_atTop,
+    ge_iff_le]
+  use exp (|log ‖e‖| + c⁻¹)
+  intro b hb
+  have h₁b : 1 ≤ b := by
+    calc 1
+      _ ≤ exp (|log ‖e‖| + c⁻¹) :=
+        one_le_exp (add_nonneg (abs_nonneg (log ‖e‖)) (inv_pos.2 hc).le)
```
Comment (robin-carlier) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
      _ ≤ exp (|log ‖e‖| + c⁻¹) := one_le_exp (by positivity)
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 2]
```diff
@@ -0,0 +1,149 @@
...
+      ge_iff_le]
+    intro b
+    obtain ⟨c, hc⟩ := eventually_atTop.1
+      (isLittleO_iff.1 (one_isLittleO_logCounting_single (e := e)) ha)
+    let ℓ := 1 + max ‖e‖ (max |b| |c|)
+    have h₁ℓ : b < ℓ := by grind
+    have h₂ℓ : c < ℓ := by grind
+    have h₃ℓ : 1 ≤ ℓ := by simp [ℓ]
+    have h₄ℓ : ℓ > ‖e‖ := by grind
+    use 1 + ℓ, h₁ℓ.le.trans (lt_one_add ℓ).le
```
Comment (robin-carlier) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
    use 1 + ℓ, (show b ≤ 1 + ℓ by grind)
```

After this one, I think the `have h₁ℓ` is not needed anymore

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 3]
```diff
@@ -0,0 +1,149 @@
...
+    calc 1
+      _ ≤ (a * |logCounting (single e 1) ℓ|) := by simpa [h₂ℓ.le] using hc ℓ
+      _ ≤ (a * |logCounting D ℓ|) := by
+        gcongr
+        · apply logCounting_nonneg (single_pos.2 Int.one_pos).le h₃ℓ
+        · apply logCounting_le he h₃ℓ
+      _ < a * |logCounting D (1 + ℓ)| := by
+        gcongr 2
+        rw [abs_of_nonneg (logCounting_nonneg h h₃ℓ),
+          abs_of_nonneg (logCounting_nonneg h (le_add_of_nonneg_right (zero_le_one.trans h₃ℓ)))]
```
Comment (robin-carlier) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
        rw [abs_of_nonneg (logCounting_nonneg h h₃ℓ),
          abs_of_nonneg (logCounting_nonneg h (by grind))]
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 4]
```diff
@@ -0,0 +1,149 @@
...
+    push_neg
+    intro a ha
+    simp only [Pi.one_apply, one_mem, CStarRing.norm_of_mem_unitary, norm_eq_abs, frequently_atTop,
+      ge_iff_le]
+    intro b
+    obtain ⟨c, hc⟩ := eventually_atTop.1
+      (isLittleO_iff.1 (one_isLittleO_logCounting_single (e := e)) ha)
+    let ℓ := 1 + max ‖e‖ (max |b| |c|)
+    have h₁ℓ : b < ℓ := by grind
+    have h₂ℓ : c < ℓ := by grind
```
Comment (robin-carlier) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
    have h₂ℓ : c ≤ ℓ := by grind
```
It seems that below you only use this version below

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 5]
```diff
@@ -0,0 +1,149 @@
...
+      _ ≤ (a * |logCounting (single e 1) ℓ|) := by simpa [h₂ℓ.le] using hc ℓ
+      _ ≤ (a * |logCounting D ℓ|) := by
+        gcongr
+        · apply logCounting_nonneg (single_pos.2 Int.one_pos).le h₃ℓ
+        · apply logCounting_le he h₃ℓ
+      _ < a * |logCounting D (1 + ℓ)| := by
+        gcongr 2
+        rw [abs_of_nonneg (logCounting_nonneg h h₃ℓ),
+          abs_of_nonneg (logCounting_nonneg h (le_add_of_nonneg_right (zero_le_one.trans h₃ℓ)))]
+        apply logCounting_strictMono he h₄ℓ (h₄ℓ.trans (lt_one_add ℓ)) (lt_one_add ℓ)
```
Comment (robin-carlier) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
        apply logCounting_strictMono he <;> grind
```
and then the `have h₄ℓ` can be removed.

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 6]
```diff
@@ -0,0 +1,146 @@
...
+  have h₁b : 1 ≤ b := by
+    calc 1
+      _ ≤ exp (|log ‖e‖| + c⁻¹) := one_le_exp (by positivity)
+      _ ≤ b := hb
+  have h₁c : ‖e‖ ≤ exp (|log ‖e‖| + c⁻¹) := by
+    calc ‖e‖
+      _ ≤ exp (log ‖e‖) := by
+        by_cases he : ‖e‖ = 0
+        · simp [he]
+        · simp_all [exp_log]
```
Comment (robin-carlier) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
      _ ≤ exp (log ‖e‖) := le_exp_log ‖e‖
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 7]
```diff
@@ -0,0 +1,143 @@
...
+
+If `f` is meromorphic over a field `𝕜`, we show that the logarithmic counting function for the
+poles of `f` is asymptotically bounded if and only if `f` has only removable singularities.  See
+Page 170f of [Lang, *Introduction to Complex Hyperbolic Spaces*][MR886677] for a detailed
+discussion.
+
+## Implementation Notes
+
+We establish the result first for the logarithmic counting function first for functions with locally
+finite support on `𝕜` and then specializes to the setting where the function with locally finite
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
We establish the result first for the logarithmic counting function for functions with locally
finite support on `𝕜` and then specialize to the setting where the function with locally finite
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 8]
```diff
@@ -0,0 +1,143 @@
...
+/--
+Qualitative consequence of `logCounting_single_eq_log_sub_const`. The constant function `1 : ℝ → ℝ`
+is little o of the logarithmic counting function attached to `single e`.
+-/
+lemma one_isLittleO_logCounting_single [DecidableEq E] [ProperSpace E] {e : E} :
+    (1 : ℝ → ℝ) =o[atTop] logCounting (single e 1) := by
+  rw [isLittleO_iff]
+  intro c hc
+  simp only [Pi.one_apply, one_mem, CStarRing.norm_of_mem_unitary, norm_eq_abs, eventually_atTop,
+    ge_iff_le]
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
  simp only [Pi.one_apply, norm_eq_abs, eventually_atTop, abs_one]
```
It feels strange to have a lemma on CStar rings here.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 9]
```diff
@@ -0,0 +1,143 @@
...
+A non-negative function with locally finite support is zero if and only if its logarithmic counting
+functions is asymptotically bounded.
+-/
+lemma zero_iff_logCounting_bounded [ProperSpace E]
+    {D : locallyFinsuppWithin (univ : Set E) ℤ} (h : 0 ≤ D) :
+    D = 0 ↔ logCounting D =O[atTop] (1 : ℝ → ℝ) := by
+  classical
+  constructor
+  · intro h₂
+    simp [isBigO_of_le' (c := 0), h₂]
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
  refine ⟨fun h₂ ↦ by simp [isBigO_of_le' (c := 0), h₂], ?_⟩ 
```
The proof of the first case is very simple, and can be inlined. In this way, you can unindent the remaining part of the proof.

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 10]
```diff
@@ -0,0 +1,143 @@
...
+  · contrapose
+    intro h₁
+    obtain ⟨e, he⟩ := exists_single_le_pos (lt_of_le_of_ne h (h₁ ·.symm))
+    rw [isBigO_iff'']
+    push_neg
+    intro a ha
+    simp only [Pi.one_apply, one_mem, CStarRing.norm_of_mem_unitary, norm_eq_abs, frequently_atTop,
+      ge_iff_le]
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
    simp only [Pi.one_apply, norm_eq_abs, frequently_atTop, abs_one]
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean [hunk 11]
```diff
@@ -0,0 +1,143 @@
...
+/-!
+## Logarithmic Counting Functions for the Poles of a Meromorphic Function
+-/
+
+/--
+A meromorphic function has only removable singularities if and only if the logarithmic counting
+function for its pole divisor is asymptotically bounded.
+-/
+theorem logCounting_isBigO_one_iff_analyticOnNhd {f : 𝕜 → E} (h : Meromorphic f) :
+    logCounting f ⊤ =O[atTop] (1 : ℝ → ℝ) ↔ AnalyticOnNhd 𝕜 (toMeromorphicNFOn f ⊤) univ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Asymptotic.lean]:
```suggestion
    logCounting f ⊤ =O[atTop] (1 : ℝ → ℝ) ↔ AnalyticOnNhd 𝕜 (toMeromorphicNFOn f univ) univ := by
```
It feels weird to use top for univ, no?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by kebekus** [comment]
bors cancel
